US08252810B2
(1) 5-(Benzyl-methyl-amino)-4-methyl-2,4-dihydro[1,2,4]triazol-3-one
Hydrazine hydrate (9.41 ml) was added to a mixture of 1-benzyl-1,2,3-trimethyl-isourea hydroiodide (CAS 56043-41-5) (65.2 g) and ethanol (400 ml), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure, pyridine (300 ml) was added to the residue, and ethyl chloroformate (20.4 ml) was added dropwise while stirring on ice. After heating to reflux for 1 hour and 30 minutes, the reaction mixture was concentrated under reduced pressure. After then adding N,N-dimethylformamide (452 ml) to the residue, the mixture was stirred at 150° C. for 17 hours. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the mixture was filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography. The obtained solid was recrystallized from diethyl ether-n-heptane to obtain the title compound (17.2 g).

reactant | Hydrazine hydrate | 9.41 ml | O.NN
reactant | 1-benzyl-1,2,3-trimethyl-isourea hydroiodide | 65.2 g | I.C(C1=CC=CC=C1)N(C(OC)=NC)C
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | 5-(Benzyl-methyl-amino)-4-methyl-2,4-dihydro[1,2,4]triazol-3-one | 17.2 g | C(C1=CC=CC=C1)N(C=1N(C(NN1)=O)C)C | C11H14N4O
